US05811432
To a mechanically stirred slurry of pulverized sodium hydroxide (16.0 g, 400 mmol) in DMSO (75 mL) was added dropwise a solution of 2-fluoro-5-nitropyridine (prepared as described by Finger and Starr, J. Am Chem. Soc., 81, 2674 (1959)) (5.7 g, 40 mmol) and t-butyl(phenylthio)acetate (9.0 g, 40 mmol) in DMSO (75 mL) while maintaining the temperature of the reaction mixture below 30° C. The mixture was allowed to stir at room temperature overnight and was then poured into ice/water. After adjustment of the pH to bout 2 with 1N HCl solution, the mixture was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. The oily residue was subjected to flash chromatography on silica gel using 2:1 chloroform/hexane as eluant. Fractions containing the desired product were combined and concentrated to leave a yellow solid which was triturated with ether to leave t-butyl (3-nitro-6-phenylthio-2-pyridyl)acetate (1.5 g, 11%), m.p. 104°-107°.

reactant | sodium hydroxide | 400 mmol, 16.0 g | [OH-].[Na+]
reactant | 2-fluoro-5-nitropyridine | 40 mmol, 5.7 g | FC1=NC=C(C=C1)[N+](=O)[O-] | C5H3FN2O2
reactant | t-butyl(phenylthio)acetate | 40 mmol, 9.0 g | C(C)(C)(C)OC(CSC1=CC=CC=C1)=O | C12H16O2S
reactant | DMSO | 75 mL | CS(=O)C | C2H6OS
reactant | DMSO | 75 mL | CS(=O)C | C2H6OS
product | t-butyl (3-nitro-6-phenylthio-2-pyridyl)acetate | 1.5 g, 11% | [N+](=O)([O-])C=1C(=NC(=CC1)SC1=CC=CC=C1)CC(=O)OC(C)(C)C | C17H18N2O4S
